Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7][H:8].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:9]([H:10])([H:11])[H:12],6.13247206319
[H:1][O:2][C:3]([C:4]([H:5])([H:10])[H:11])[H:9].[O:6]([H:7])[C:8]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.9923959632
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.90280548398
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],1.51079727407
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.23090408577
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.79114038741
[H:1][C:2]#[C:3]/[C:4]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11].[H:5]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11],-1.5438976298500002
[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],0.8754285527600001
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-1.08439082365
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][H:8]>>[C:5]([H:6])=[O:7].[O:1]([C:2]#[C:4][H:3])[H:8],1.7151101211700002
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([C:6]([H:7])([H:8])[H:9])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:10]/[C:13]([H:14])([H:15])[H:16],4.447674773319999
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10],7.64945428518
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][H:4].[O:5][O:6][C:7]([H:8])([H:9])[H:10],0.32646619703
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2](=[O:3])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.23320546839
[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.6511272915700002
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][O:11],2.45534054417
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],-6.2798638198
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-2.36704666275
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.3980661637099998
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:10][C:11]([H:12])[H:13].[H:9],3.53384320356
[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.99376456244
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])\[C:13]([H:14])([H:15])[H:16].[H:1],4.91061901156
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5][H:6].[H:1][C:2]=[C:3]([H:4])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],6.76786641663
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:10]([H:11])([H:12])[H:13].[H:9],3.70366363143
[C:1].[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-5.86557880926
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.88494044543
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.69925781364
